US03998851
To a stirred glass reactor is added 10 mmoles of coumaric acid, 0.5 mmoles of platinum composited on a gamma-alumina support and 60 grams of acetic acid. The reactor is heated to a temperature of 100° C. by means of an oil bath while effecting the reaction in a nitrogen atmosphere. At the end of 4 hours, it will be found that a major portion of the cinnamic acid is cyclized to form coumarin.

reactant | coumaric acid | 10 mmoles | C1=CC(=CC=C1/C=C/C(=O)O)O | C9H8O3
reactant | gamma-alumina | [O-2].[O-2].[O-2].[Al+3].[Al+3]
reactant | cinnamic acid | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
catalyst | platinum | 0.5 mmoles | [Pt] | Pt
solvent | acetic acid | 60 grams | C(C)(=O)O | C2H4O2
product | coumarin | O1C(=O)C=CC2=CC=CC=C12 | C9H6O2
